US07582760B2
1-(3-Fluoro-benzyl)-4-piperazin-1-yl-1,3-dihydro-indol-2-one
4-[1-(3-Fluoro-benzyl)-2-oxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (115 mg) was dissolved in 2 mL of EtOH and 500 uL of 2.0 N HCl/EtOH was added. The solution was heated to reflux on a steam bath for 30 minutes and then cooled to room temperature. Diethyl ether was added slowly to precipitate 1-(3-Fluoro-benzyl)-4-piperazin-1-yl-1,3-dihydro-indol-2-one as a hydrochloride salt. MS: 326 (M+H)+.

reactant | 4-[1-(3-Fluoro-benzyl)-2-oxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 115 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2CC(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O | C24H28FN3O3
reactant | HCl EtOH | 2.0 N, 500 uL | Cl.CCO
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | EtOH | 2 mL | CCO | C2H6O
product | 1-(3-Fluoro-benzyl)-4-piperazin-1-yl-1,3-dihydro-indol-2-one | FC=1C=C(CN2C(CC3=C(C=CC=C23)N2CCNCC2)=O)C=CC1 | C19H20FN3O
